US07645785B2
2-[2-(4-Chloro-phenyl)-5-fluoro-benzoimidazol-1-yl]-2,N-dicyclohexyl-acetamide
4-Chlorobenzoic acid (156.6 mg, 1 mmol, 1 equiv.) was added to a solution of cyclohexanecarbaldehyde (168.3 mg, 1.5 mmol, 1.5 equiv.), cyclohexyl isocyanide (109.2 g, 1 mmol, 1 equiv.) and (2-amino-5-fluoro-phenyl)-carbamic acid allyl ester (210.2 mg, 1 mmol, 1 equiv.) in methanol (15 mL) and the mixture was stirred at room temperature for 16 hours. The solvent was evaporated and the crude product extracted from ethyl acetate and aq. NaHCO3. After separation of the organic layer and evaporation of the solvent, the residue was taken up in Acetonitril. Morpholine (435.5 mg. 5 mmol, 5 equiv.) and etrakis(triphenylphosphine)palladium (231.1 mg, 0.2 mmol, 0.2 equiv.) were added and the mixture stirred at room temperature for 3 hours. The solvent was evaporated and the crude product extracted from ethyl acetate and aq. NaHCO3. After separation of the organic layer and evaporation of the solvent, the residue was taken up in acetic acid. The mixture was stirred at 80° C. for 16 hours. The solvent was evaporated and the product isolated via preperative HPLC. MS (ES+): 469 (M+H).

reactant | 4-Chlorobenzoic acid | 1 mmol, 156.6 mg, 1 equiv. | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | cyclohexanecarbaldehyde | 1.5 mmol, 168.3 mg, 1.5 equiv. | C1(CCCCC1)C=O | C7H12O
reactant | cyclohexyl isocyanide | 1 mmol, 109.2 g, 1 equiv. | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | (2-amino-5-fluoro-phenyl)-carbamic acid allyl ester | 1 mmol, 210.2 mg, 1 equiv. | C(C=C)OC(NC1=C(C=CC(=C1)F)N)=O | C10H11FN2O2
reactant | Morpholine | 5 mmol, 435.5 mg, 5 equiv. | N1CCOCC1 | C4H9NO
solvent | methanol | 15 mL | CO | CH4O
product | 2-[2-(4-Chloro-phenyl)-5-fluoro-benzoimidazol-1-yl]-2,N-dicyclohexyl-acetamide | ClC1=CC=C(C=C1)C1=NC2=C(N1C(C(=O)NC1CCCCC1)C1CCCCC1)C=CC(=C2)F | C27H31ClFN3O
